US05576321
Preparation of (2S)-(+)-3-[4-(6-methoxy-3-indolyl)-1,2,3,6-tetrahydropyridin-1-yl]-1-(4-indolyloxy)-2-propanol
The title compound was prepared in a fashion similar to that described in Example 193 from 6-methoxy-3-(1,2,3,6-tetrahydropyridin-4-yl)-1H-indole (0.80 g, 3.5 mmol) and (S)-(+)-4-(oxiranylmethoxy)-1H-indole (0.66 g, 3.5 mmol). The resulting free base was recrystallized from methanol to yield a white crystalline solid. Yield 0.63 g (43%). mp 155°-160° C. FDMS m/e=417 (M+ of free base). α[D]589 =+4.30 (c=0.98, methanol/dimethylsulfoxide).

reactant | 6-methoxy-3-(1,2,3,6-tetrahydropyridin-4-yl)-1H-indole | 3.5 mmol, 0.80 g | COC1=CC=C2C(=CNC2=C1)C=1CCNCC1 | C14H16N2O
reactant | (S)-(+)-4-(oxiranylmethoxy)-1H-indole | 3.5 mmol, 0.66 g | O1[C@@H](C1)COC1=C2C=CNC2=CC=C1 | C11H11NO2
solvent | methanol dimethylsulfoxide | CO.CS(=O)C
product | (2S)-(+)-3-[4-(6-methoxy-3-indolyl)-1,2,3,6-tetrahydropyridin-1-yl]-1-(4-indolyloxy)-2-propanol | COC1=CC=C2C(=CNC2=C1)C=1CCN(CC1)C[C@@H](COC1=C2C=CNC2=CC=C1)O | C25H27N3O3
